US04751225
4-(3,5-Difluorophenoxy)phenol (3.0 g, 13.5 mmol) was added to an ethanolic solution of sodium ethoxide prepared from ethanol (15 ml) and sodium (313 mg, 13.6 mmol). To the resultant solution, 1-chloro-2-propanol (1.60 g, 16.9 mmol) was dropwise added with stirring under reflux. After completion of the addition, the resultant mixture was stirred under reflux for 5 hours. After allowed to cool, ethanol was removed, and the residual oil was dissolved in toluene. The toluene layer was washed with water once, a 20% aqueous potassium hydroxide solution two times and a saturated aqueous sodium chloride solution once in order and dried over anhydrous magnesium sulfate. Removal of the solvent gave 1-methyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethanol (2.24 g).

reactant | 4-(3,5-Difluorophenoxy)phenol | 13.5 mmol, 3.0 g | FC=1C=C(OC2=CC=C(C=C2)O)C=C(C1)F | C12H8F2O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 13.6 mmol, 313 mg | [Na] | Na
reactant | 1-chloro-2-propanol | 16.9 mmol, 1.60 g | ClCC(C)O | C3H7ClO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-methyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethanol | 2.24 g | CC(COC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F)O | C15H14F2O3
